US04035427
A mixture of 15 grams (0.064 mole) of α-acetoxy-p-pivaloyl-toluene and 15 grams (0.278 mole) of potassium hydroxide in 150 milliliter of ethanol and 50 milliliters of water is refluxed for 4 hours. The solvent is removed in vacuo, and the residue is treated with ether and water. The ether is separated and the water is again extracted with ether. The ether layers are combined, decolorized with charcoal, dried over magnesium sulfate, filtered and evaporated. The resulting yellow oil is distilled in vacuo to give p-pivaloyl benzyl alcohol (b.p. 100° to 105° C./0.1 milliliters).

reactant | α-acetoxy-p-pivaloyl-toluene | 0.064 mole, 15 grams | C(C)(=O)OCC1=CC=C(C=C1)C(C(C)(C)C)=O | C14H18O3
reactant | potassium hydroxide | 0.278 mole, 15 grams | [OH-].[K+]
solvent | ethanol | 150 milliliter | C(C)O | C2H6O
solvent | water | 50 milliliters | O | H2O
product | p-pivaloyl benzyl alcohol | 0.1 milliliters | C(C(C)(C)C)(=O)C1=CC=C(CO)C=C1 | C12H16O2
